US06579875B1
d) 6-Chloro-3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazine
To a stirred solution of 6-chloro-3-(2-fluorophenyl)-7-(trimethylsilyl)-1,2,4-triazolo[4,3-b]pyridazine (1.04 g, 3.24 mmol) in anhydrous THF (15 ml) under nitrogen was added cyclobutanone (1.21 ml, 16.2 mmol), followed by solid tetrabutylammonium difluorotriphenylstannate (0.410 g, 0.650 mmol). The flask was evaporated and refilled with nitrogen four times, then stirred at room temperature for 5.75 h. More tetrabutylammonium difluorotriphenylstannate (0.403 g, 0.639 mmol) was added and the mixture was stirred for a further 36 h. The mixture was then partitioned between dichloromethane (75 ml) and water (75 ml). The aqueous layer was extracted further with dichloromethane (2×50 ml), and the combined organic extracts were dried (Na2SO4) and evaporated in, vacuo. The residue was purified by flash chromatography (silica gel. 70-100% EtOAc/hexane) to give 0.2634 g (26%) of the title compound as a cream solid; 1H NMR (360 MHz, CDCl3) δ1.81 (1H, m), 2.27 (1H, m), 2.52 (2H, m), 2.72 (2H, m), 2.87 (1H, s), 7.30 (1H, t, J=9.3 Hz), 7.36 (1H, t, J=7.5 Hz), 7.58 (1H, m), 7.88 (1H, td, J=7.3 and 1.8 Hz), 8.12 (1H, s); MS (ES+) m/e 319/321 [MH]+, 249.

reactant | 6-chloro-3-(2-fluorophenyl)-7-(trimethylsilyl)-1,2,4-triazolo[4,3-b]pyridazine | 3.24 mmol, 1.04 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)[Si](C)(C)C | C14H14ClFN4Si
reactant | cyclobutanone | 16.2 mmol, 1.21 ml | C1(CCC1)=O | C4H6O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium difluorotriphenylstannate | 0.650 mmol, 0.410 g | CCCC[N+](CCCC)(CCCC)CCCC.C1=CC=C(C=C1)[Sn-](C2=CC=CC=C2)(C3=CC=CC=C3)(F)F
catalyst | tetrabutylammonium difluorotriphenylstannate | 0.639 mmol, 0.403 g | CCCC[N+](CCCC)(CCCC)CCCC.C1=CC=C(C=C1)[Sn-](C2=CC=CC=C2)(C3=CC=CC=C3)(F)F
product | 6-Chloro-3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.2634 g, 26% | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C2(CCC2)O | C15H12ClFN4O
